US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoic acid
Methyl 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate (100 mg, 0.25 mmol) was dissolved in THF (2.0 mL and water (0.2 mL) and solid lithium hydroxide (21 mg, 0.5 mmol) added. The resultant mixture was stirred at ambient temperature for 16 hours. Water (10 mL) was added and the mixture partially reduced in vacuo and then extracted with ethyl acetate. The aqueous liquors were acidified with 1M hydrochloric acid and re-extracted with ethyl acetate (2×10 mL). The extracts were combined, washed with brine, dried (MgSO4), filtered, and evaporated in vacuo to give the crude product which was used without further purification (70 mg).

reactant | Methyl 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate | 0.25 mmol, 100 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)OC)C=C(C2)O[C@H](CO)C)C=C1)F | C21H22FNO6
reactant | lithium hydroxide | 0.5 mmol, 21 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 0.2 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoic acid | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO)C)C=C1)F | C20H20FNO6
